US04046841
A mixture of dimethyl 3-(5-chloropyrid-2-yloxy)-2-semicarbazonopropylphosphonate (400 mg.), toluene (5 ml.) and 6N hydrochloric acid (1.0 ml.) was stirred at room temperature for 4.5 hours, and the pH of the reaction mixture was adjusted to about 4 by the dropwise addition of 5N sodium hydroxide solution. The organic layer was separated and the aqueous layer was washed with ethyl acetate (6 ml). The combined organic extracts were washed with a 1:1 v/v mixture of saturated brine and water (4 ml. then 2 ml.) and dried, and the solvents were evaporated under reduced pressure to give dimethyl 3-(5-chloropyrid-2-yloxy)-2-oxopropylphosphonate, RF = 0.43 (5% v/v methanol in ethyl acetate). The n.m.r. spectrum in deuteriochloroform showed the following characteristic peaks (δ values):

reactant | dimethyl 3-(5-chloropyrid-2-yloxy)-2-semicarbazonopropylphosphonate | 400 mg | ClC=1C=CC(=NC1)OCC(CP(OC)(OC)=O)=NNC(=O)N | C11H16ClN4O5P
reactant | hydrochloric acid | 6N, 1.0 ml | Cl | ClH
reactant | sodium hydroxide | 5N | [OH-].[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | dimethyl 3-(5-chloropyrid-2-yloxy)-2-oxopropylphosphonate | ClC=1C=CC(=NC1)OCC(CP(OC)(OC)=O)=O | C10H13ClNO5P
